US04587341
E. 2-Dimethylamino-6-formyl-4-methylquinoline
To a stirred solution of 0.30 g (0.00113 moles) of 6-bromo-2-dimethylamino-4-methylquinoline in 30 ml of dry (freshly distilled from over LiAlH4) THF under N2 at -78° C., 1.45 ml (0.00226 moles) of 1.56M n-BuLi was added dropwise over a 5 minute period. 0.23 ml (0.00297 moles) of dry DMF (freshly distilled from over CaH2) was added to the reaction mixture in one portion. The dry ice/acetone bath was removed 12 minutes after the addition of DMF and the solution allowed to warm to -40°. The reaction mixture was poured onto 17 ml of 1N HCl in ice (22 minutes after addition of DMF) and extracted with 30 ml ether. The aqueous solution was made alkaline to pH 12 and extracted with three 20 ml portions of CH2Cl2. The yellow-orange coloured extract was washed with H2O and then dried over MgSO4 . The solvent was removed under vacuum, and the residue dried in a vacuum oven, wt 0.23 g (95.8%), m.p. 96°-99° C. The product was recrystallised three times (EtOH/H2O). The TLC of the recrystallised product showed several spots, with the predominant component having an Rf 0.38 in 2:1 hexane/EtOAc and being fluorescent under long hot UV. The product was dissolved in 2:1 hexane/EtOAc and placed on silica flash column. Fractions were collected; those containing the Rf 0.38 product were combined, and the solvent removed in vacuo. The residue was recrystallised from absolute ethanol; weight 0.04 g, (17%) m.p. 116.0°-117.8° C. Anal. Calcd. for C13H14N2O: C, 72.87; H, 6.59; N, 13.07. Found: C, 72.74; H, 6.64; N, 13.05.

reactant | 6-bromo-2-dimethylamino-4-methylquinoline | 0.00113 moles, 0.30 g | BrC=1C=C2C(=CC(=NC2=CC1)N(C)C)C | C12H13BrN2
reactant | n-BuLi | 0.00226 moles, 1.56M, 1.45 ml | [Li]CCCC
reactant | DMF | 0.00297 moles, 0.23 ml | CN(C)C=O | C3H7NO
product | 2-Dimethylamino-6-formyl-4-methylquinoline | CN(C1=NC2=CC=C(C=C2C(=C1)C)C=O)C | C13H14N2O
